US05798311
a: N-(4-trifluoromethylphenyl)-3-(4-chlorophenyl)-4-methyl-4-acetyl-4,5-dihydro-1H-pyrazole-1-carboxamide
To 14 ml (102 mmole) of diisopropyl amine and 1 mg of phenanthroline in 150 ml of tetrahydrofuran cooled to -30° C. was added 40 ml (100 mmole) of 2.5M n-butyllithium in hexane. After stirring for 5 minutes a solution of 15 g (39 mmole) of N-(4-trifluoromethylphenyl)-3-(4-chlorophenyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide (U.S. Pat. No. 4,663,341, see experimental for compound 149) in 25 ml of tetrahydrofuran was added while maintaining the internal temperature between -30° C and -40° C. After stirring for 40 minutes the mixture was cooled to -70° C. and 20 ml of ethyl acetate was added. After stirring for 15 minutes the mixture was quenched with 20 ml of acetic acid, warmed to 0° C. and 25 ml of water was added. The organic layer was separated, concentrated in vacuo, dissolved in 200 ml of diethyl ether, washed with dilute aqueous hydrochloric acid, dilute aqueous sodium hydroxide, and brine. The mixture was dried over anhydrous magnesium sulfate, filtered, concentrated in vacuo, and crystallized from diethyl ether yielding 6.5 g of the title compound containing a small amount of starting material.

reactant | diisopropyl amine | 102 mmole, 14 ml | C(C)(C)NC(C)C | C6H15N
reactant | phenanthroline | 1 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | n-butyllithium | 100 mmole, 2.5M, 40 ml | C(CCC)[Li]
reactant | N-(4-trifluoromethylphenyl)-3-(4-chlorophenyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 39 mmole, 15 g | FC(C1=CC=C(C=C1)NC(=O)N1N=C(C(C1)C)C1=CC=C(C=C1)Cl)(F)F | C18H15ClF3N3O
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-(4-trifluoromethylphenyl)-3-(4-chlorophenyl)-4-methyl-4-acetyl-4,5-dihydro-1H-pyrazole-1-carboxamide | FC(C1=CC=C(C=C1)NC(=O)N1N=C(C(C1)(C(C)=O)C)C1=CC=C(C=C1)Cl)(F)F | C20H17ClF3N3O2
